* C:\Gedeeld\Project\Git\Normalization\LTspice\Final_design.asc
XU1 N007 N002 N001 0 N003 LM4562
Vin Vin 0 SINE(0 0.02 100) AC 0.02
R1 N007 N009 470k
C1 Vin N007 20µ
R3 N001 N009 1k
C2 N009 0 220µ
Vdd N001 0 10
R§DigPot N002 N010 100
R5 N002 N003 10k
R4 N009 0 1k
C3 N003 N005 1µ Rser=0.1
R7 N005 0 15k
R6 N005 Vband 5k
C4 Vband 0 1n Rser=0.1
R8 N001 N008 1k
C5 N008 0 220µ Rser=0.1
R10 N008 0 1k
R9 N006 N008 470k
XU2 N006 N004 N001 0 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C7 N004 Vout 20µ
R11 Vout 0 1k
R12 N001 N010 1k
C6 N010 0 220µ
R13 N010 0 1k
C8 Vband N006 20µ Rser=0.1
C9 N001 0 100µ
C10 N001 0 100n
C11 N001 0 100n
;tran 0 1 0 0.01
.ac oct 100 0.1 1000k
.lib NewOpamps\LM4562.lib
.lib UniversalOpamps2.sub
.backanno
.end
