* D:\GitHub\ouisician\Normalization\LTspice\Normalization_test.asc
XU1 N004 N002 N001 0 N003 LM4562
Vin Vin 0 SINE(0 0.02 100) AC 0.02
R1 N004 N005 100k
C1 Vin N004 1µ
R3 N001 N005 1k
C2 N005 0 1µ
Vamp N001 0 10
R2 N002 N005 100
R5 N002 N003 10k
R4 N005 0 1k
C4 N003 Vout 1µ Rser=0.1
R8 Vout 0 5k
;op
.tran 0 0.1 0 0.01
;ac dec 100000 0.1 40k
.lib NewOpamps\LM4562.lib
.backanno
.end
