* D:\GitHub\ouisician\Normalization\LTspice\Normalization_test_bandpass.asc
XU1 N008 N002 N001 0 N003 LM4562
Vin Vin 0 SINE(0 0.02 100) AC 0.02
R1 N008 N011 100k
C1 Vin N008 1µ
R3 N001 N011 1k
C2 N011 0 150µ
Vamp N001 0 10
R2 N002 N011 100
R5 N002 N003 10k
R4 N011 0 1k
C3 N003 N005 91n Rser=0.1
R7 N005 0 80k
R6 N005 N006 5k
C4 N006 0 1n Rser=0.1
R8 N001 N010 1k
C5 N010 0 150µ Rser=0.1
R10 N010 0 1k
C6 N006 N007 1µ Rser=0.1
R9 N007 N010 100k
XU2 N007 N004 N001 0 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C7 N004 N009 150µ
R11 N009 0 1k
;op
.tran 0 0.1 0 0.01
;ac dec 100000 0.1 100k
.lib NewOpamps\LM4562.lib
.lib UniversalOpamps2.sub
.backanno
.end
