* C:\Gedeeld\Project\Git\TriangleWave\Triangular_signal_generator_simulation.asc
R3 N004 N003 1k
R4 Vblock N004 15.1k
R5 N002 Vblock 10k
C1 N003 N002 1.3n
V3 N001 0 12
R12 N001 Vblock 2k
C2 Vout N003 1µ
R1 Vout 0 1k
C3 N001 0 100µ
V1 Vref 0 6
XU1 Vref N002 N001 0 N003 level.2 Avol=10Meg GBW=100Meg Slew=100Meg ilimit=250m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N004 Vref N001 0 Vblock level.2 Avol=10Meg GBW=100Meg Slew=100Meg ilimit=250m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.tran 0 0.005 0.0049 0.00001 uic
.lib UniversalOpamps2.sub
.backanno
.end
